US07314849B2
Alliquat 336 (methyltrioctylammonium chloride, 0.63 g, 1.6 mmol), dibromomethane (40.7 g, 234.2 mmol) and water (31 mL) were placed in a 500 mL 3-necked flask equipped with an addition funnel, condenser and a stir bar. The addition funnel was charged with a solution of 3-fluorocatechol (20.0 g, 160 mmol) in 5M sodium hydroxide (80 mL). The mixture in the flask was heated to reflux and the solution of the catechol was added dropwise with good stirring over 2 hours and the resulting dark mixture heated an additional 2 hours at reflux. After cooling to room temperature, the reaction was diluted with methylene chloride and the layers separated. The aqueous layer was extracted with methylene chloride and the combined organic layers dried (Na2SO4 with charcoal). Filtration and concentration to a constant weight on the rota-vap gave 1-fluoro-2,3-methylenedioxybenzene (14.6 g, 104.2 mmol) as a dark yellow oil: 1H NMR (CDCl3); 6.80 (m, 1H), 6.68 (m, 2H), 6.04 (s, 2H).

reactant | dibromomethane | 234.2 mmol, 40.7 g | BrCBr | CH2Br2
reactant | water | 31 mL | O | H2O
reactant | 3-fluorocatechol | 160 mmol, 20.0 g | FC1=C(C(O)=CC=C1)O | C6H5FO2
reactant | catechol | C=1(O)C(O)=CC=CC1 | C6H6O2
catalyst | methyltrioctylammonium chloride | [Cl-].C[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | sodium hydroxide | 5M, 80 mL | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-fluoro-2,3-methylenedioxybenzene | 104.2 mmol, 14.6 g | FC1=C2C(=CC=C1)OCO2 | C7H5FO2
